* C:\Users\Merrick\Documents\LTspiceXVII\balun.asc
C1 N001 0 7.3pF
C2 pad1 0 7.3pF
C3 N002 N001 7.3pF
C4 pad2 N002 7.3pF
L1 N002 0 18.25nH
L2 N001 pad1 18.25nH
V1 N001 0 SINE(0 1 430000000) AC 1
R1 pad1 pad2 50
.tran 0 2015ns 2000ns
.backanno
.end
